US07705025B2
{4-[5-(Pyrrolidine-1-carbonyl)-thiophen-2-yl]-phenyl}-(2(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to General Procedure D in 5 mL 20% DMF/dichloromethane using 4-[5-(Pyrrolidine-1-carbonyl)-thiophen-2-yl]-benzoic acid (121 mg, 0.40 mmol), EDC-HCl (115 mg, 0.60 mmol), HOBt (81 mg, 0.60 mmol), DIEA (0.17 mL, 1.0 mmol) and (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine (52 mg, 0.34 mmol) to give the title compound (85 mg, 57% yield). MS (ES+) 438.3 (M+H)+

reactant | 4-[5-(Pyrrolidine-1-carbonyl)-thiophen-2-yl]-benzoic acid | 0.40 mmol, 121 mg | N1(CCCC1)C(=O)C1=CC=C(S1)C1=CC=C(C(=O)O)C=C1 | C16H15NO3S
reactant | EDC-HCl | 0.60 mmol, 115 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.60 mmol, 81 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 1.0 mmol, 0.17 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine | 0.34 mmol, 52 mg | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
solvent | DMF dichloromethane | 5 mL | CN(C)C=O.ClCCl
product | {4-[5-(Pyrrolidine-1-carbonyl)-thiophen-2-yl]-phenyl}-(2(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | 85 mg, 57% yield | N1(CCCC1)C(=O)C1=CC=C(S1)C1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C25H31N3O2S
